* NGSPICE file created from hx_charge_pump_switch.ext - technology: ihp-sg13g2

.subckt hx_charge_pump_switch VSS VDD UP_INV DOWN DOWN_INV UP DELAY_VBIASP DELAY_VBIASN
+ CURRENT_SOURCE CURRENT_SINK DLL_RESETN
X0 VDD VDD VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=15.142p ps=78.71999u w=1.12u l=0.13u
X1 VDD DELAY_VBIASP DELAY_VBIASP VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=1.0304p ps=4.08u w=1.12u l=0.6u
X2 VDD DOWN_INV CURRENT_SINK VSS.t14 sg13_lv_nmos ad=0.232p pd=2.08u as=0.136p ps=1.14u w=0.4u l=0.2u
X3 VDD VDD VDD VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0 ps=0 w=1.12u l=0.13u
X4 VSS.t6 VSS.t4 VSS.t4 VSS.t5 sg13_lv_nmos ad=0.2516p pd=2.16u as=0 ps=0 w=0.74u l=0.13u
X5 VSS.t6 VSS.t6 VSS.t8 VSS.t7 sg13_lv_nmos ad=0.1406p pd=1.12u as=0 ps=0 w=0.74u l=0.13u
X6 CURRENT_SINK DOWN DELAY_VBIASN VSS.t0 sg13_lv_nmos ad=0.136p pd=1.14u as=0.232p ps=2.08u w=0.4u l=0.2u
X7 VSS.t1 UP CURRENT_SOURCE VDD sg13_lv_pmos ad=0.232p pd=2.08u as=0.136p ps=1.14u w=0.4u l=0.2u
X8 VDD VDD VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0 ps=0 w=1.12u l=0.13u
X9 VSS.t3 DELAY_VBIASN DELAY_VBIASP VSS.t2 sg13_lv_nmos ad=0.2516p pd=2.16u as=0.6808p ps=3.32u w=0.74u l=0.6u
X10 VDD VDD VDD VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0 ps=0 w=1.12u l=0.13u
X11 VSS.t11 VSS.t9 VSS.t9 VSS.t10 sg13_lv_nmos ad=0.2516p pd=2.16u as=0 ps=0 w=0.74u l=0.13u
X12 VSS.t11 VSS.t11 VSS.t13 VSS.t12 sg13_lv_nmos ad=0.1406p pd=1.12u as=0 ps=0 w=0.74u l=0.13u
X13 DELAY_VBIASN DLL_RESETN VDD VDD sg13_lv_pmos ad=0.158p pd=1.245u as=0.272p ps=2.28u w=0.8u l=0.2u
X14 CURRENT_SOURCE UP_INV DELAY_VBIASN VDD sg13_lv_pmos ad=0.136p pd=1.14u as=0.158p ps=1.245u w=0.4u l=0.2u
C0 DELAY_VBIASP CURRENT_SINK 0.05036f
C1 UP DOWN_INV 0.06731f
C2 DOWN_INV VDD 0.36499f
C3 DELAY_VBIASN CURRENT_SOURCE 0.14824f
C4 CURRENT_SOURCE DLL_RESETN 0.11791f
C5 CURRENT_SOURCE UP 0.05588f
C6 CURRENT_SOURCE VDD 0.21247f
C7 DELAY_VBIASN UP_INV 0.07797f
C8 CURRENT_SINK DOWN 0.03275f
C9 UP_INV DLL_RESETN 0.03128f
C10 DELAY_VBIASN CURRENT_SINK 0.21568f
C11 UP UP_INV 0.07166f
C12 DELAY_VBIASN DELAY_VBIASP 0.37605f
C13 CURRENT_SOURCE DOWN_INV 0.0141f
C14 CURRENT_SINK DLL_RESETN 0.20441f
C15 UP_INV VDD 0.34717f
C16 DELAY_VBIASP DLL_RESETN 0.06495f
C17 VDD CURRENT_SINK 0.20022f
C18 VDD DELAY_VBIASP 0.7492f
C19 DOWN_INV CURRENT_SINK 0.01237f
C20 DELAY_VBIASN DOWN 0.18643f
C21 CURRENT_SOURCE UP_INV 0.04919f
C22 DELAY_VBIASN DLL_RESETN 0.12834f
C23 CURRENT_SOURCE CURRENT_SINK 0.01554f
C24 CURRENT_SOURCE DELAY_VBIASP 0.01665f
C25 DELAY_VBIASN VDD 0.2313f
C26 VDD DLL_RESETN 0.54671f
C27 DOWN_INV DOWN 0.54597f
C28 UP VDD 0.31295f
R0 VSS.n2 VSS.t5 59.352
R1 VSS.n3 VSS.t14 256.409
R2 VSS.n35 VSS.t5 226.278
R3 VSS.t10 VSS.n24 226.278
R4 VSS.t0 VSS.n0 212.389
R5 VSS.t2 VSS.n1 179.791
R6 VSS.n35 VSS.t7 145.986
R7 VSS.n24 VSS.t12 145.986
R8 VSS.t12 VSS.n4 139.644
R9 VSS.t7 VSS.n1 139.643
R10 VSS.n5 VSS.t2 114.097
R11 VSS.n4 VSS.t0 81.2486
R12 VSS.n5 VSS.t10 59.3513
R13 VSS.t14 VSS.n0 37.2081
R14 VSS.n7 VSS.n15 17.0005
R15 VSS.n7 VSS.n19 17.0005
R16 VSS.n7 VSS.n29 17.0005
R17 VSS.n7 VSS.n31 17.0005
R18 VSS.n7 VSS.n41 17.0005
R19 VSS.n7 VSS.n6 17.0005
R20 VSS.n3 VSS.n22 15.54
R21 VSS.t1 VSS.n11 9.08698
R22 VSS.n12 VSS.t1 9.0445
R23 VSS.n22 VSS.n2 8.50098
R24 VSS.n7 VSS.n24 8.5005
R25 VSS.n7 VSS.n35 8.5005
R26 VSS.n7 VSS.n10 8.47732
R27 VSS.n7 VSS.n14 8.47732
R28 VSS.n7 VSS.n16 8.47732
R29 VSS.n7 VSS.n18 8.47732
R30 VSS.n7 VSS.n23 8.47732
R31 VSS.n7 VSS.n34 8.47732
R32 VSS.n7 VSS.n13 4.19225
R33 VSS.n7 VSS.n9 4.18908
R34 VSS.n7 VSS.n17 3.32633
R35 VSS.n7 VSS.n33 2.74397
R36 VSS.n42 VSS.n7 2.00974
R37 VSS.n7 VSS.n21 1.75507
R38 VSS.n40 VSS.t4 0.806855
R39 VSS.n30 VSS.t9 0.806855
R40 VSS.n32 VSS.t3 0.802775
R41 VSS.t8 VSS.n37 0.595317
R42 VSS.t6 VSS.n36 0.595317
R43 VSS.t13 VSS.n26 0.595317
R44 VSS.t11 VSS.n25 0.595317
R45 VSS.n21 VSS.n20 0.52186
R46 VSS.n27 VSS.n21 0.447348
R47 VSS.n42 VSS.t4 0.337961
R48 VSS.n43 VSS.n42 0.326701
R49 VSS.n38 VSS.n33 0.312321
R50 VSS.n20 VSS.n9 0.293144
R51 VSS.t3 VSS.n17 0.275797
R52 VSS.n37 VSS.n17 0.266415
R53 VSS.n7 VSS.n0 0.246805
R54 VSS.n11 VSS.n9 0.244511
R55 VSS.n33 VSS.n32 0.238218
R56 VSS.n13 VSS.n12 0.225674
R57 VSS.n26 VSS.n13 0.219424
R58 VSS.t6 VSS.t8 0.1875
R59 VSS.t11 VSS.t13 0.1875
R60 VSS.t9 VSS.n16 0.0971176
R61 VSS VSS.n43 0.093
R62 VSS.n32 VSS.n31 0.093
R63 VSS.n39 VSS.t6 0.0851154
R64 VSS.t8 VSS.n38 0.0851154
R65 VSS.n28 VSS.t11 0.0851154
R66 VSS.t13 VSS.n27 0.0851154
R67 VSS.n36 VSS.n19 0.08175
R68 VSS.n25 VSS.n15 0.08175
R69 VSS.n41 VSS.n39 0.08175
R70 VSS.n29 VSS.n28 0.08175
R71 VSS.n37 VSS.n18 0.0671176
R72 VSS.n26 VSS.n14 0.0671176
R73 VSS.n38 VSS.n34 0.0671176
R74 VSS.n27 VSS.n23 0.0671176
R75 VSS.n36 VSS.n18 0.0621177
R76 VSS.n25 VSS.n14 0.0621177
R77 VSS.n39 VSS.n34 0.0621177
R78 VSS.n28 VSS.n23 0.0621177
R79 VSS.n12 VSS.n10 0.0608676
R80 VSS.t3 VSS.n16 0.0571176
R81 VSS.n43 VSS.n6 0.04925
R82 VSS.n40 VSS.n6 0.04925
R83 VSS.n31 VSS.n30 0.04925
R84 VSS.n11 VSS.n10 0.0483676
R85 VSS.n19 VSS.t4 0.04675
R86 VSS.t9 VSS.n15 0.04675
R87 VSS.n41 VSS.n40 0.04675
R88 VSS.n30 VSS.n29 0.04675
R89 VSS.n43 VSS 0.0375787
R90 VSS.n7 VSS.n3 0.0220901
R91 VSS.n7 VSS.n2 0.00100009
R92 VSS.n8 VSS.n22 8.50175
R93 VSS.n7 VSS.n4 0.00126358
R94 VSS.n7 VSS.n5 0.00121313
R95 VSS.n7 VSS.n1 0.00100649
R96 VSS.n8 VSS.n7 0.00125
R97 VSS.n20 VSS.n8 8.47794
C29 DOWN_INV VSS 0.58961f
C30 CURRENT_SINK VSS 0.52216f
C31 DOWN VSS 0.86043f
C32 CURRENT_SOURCE VSS 0.57675f
C33 UP VSS 0.15039f
C34 DELAY_VBIASN VSS 1.10897f
C35 DLL_RESETN VSS 0.07404f
C36 UP_INV VSS 0.07259f
C37 DELAY_VBIASP VSS 0.51225f
C38 VDD VSS 2.0041f
.ends
